US04426524
A solution of 100 g (0.598 mol) of 2-methyl-3-nitrophenylmethanol, 75.5 g (0.897 mol) of dihydropyran, and 15.0 g (0.06 mol) of the pyridinium salt of 4-methylbenzenesulfonic acid in 1 L of methylene chloride was stirred at ambient temperature for 24 hours. The reaction mixture was washed with two portions of 200 mL each of a saturated aqueous solution of sodium chloride, dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give a residual oil. The oil was subjected to column chromatography on silica gel, eluting with methylene chloride. The appropriate fractions were combined and concentrated under reduced pressure to give a residual oil. The oil was dissolved in 1 L of toluene, and was stirred in a Morton flask for 19 hours in the presence of 5 g of powdered Raney nickel. The mixture was filtered, and the filtrate concentrated under reduced pressure to give 147.8 g of 3-nitro-2-methylbenzenemethanol tetrahydropyranyl ether.

reactant | 2-methyl-3-nitrophenylmethanol | 0.598 mol, 100 g | CC1=C(C=CC=C1[N+](=O)[O-])CO | C8H9NO3
reactant | dihydropyran | 0.897 mol, 75.5 g | O1CCCC=C1 | C5H8O
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 3-nitro-2-methylbenzenemethanol tetrahydropyranyl ether | 147.8 g | O1C(CCCC1)OCC1=C(C(=CC=C1)[N+](=O)[O-])C | C13H17NO4
